US07807684B2
Step A: tert-Butyl 2-[[(3-{[4-chloro-3-(3-chloro-5-cyanophenoxy)phenoxy]methyl}-1H-pyrazolo[3,4-b]pyridin-1-yl)carbonyl](methyl)amino]ethyl(methyl)carbamate
To a solution of triphosgene (63 mg, 0.212 mmol) in CH2Cl2 (3 mL) at 0° C. was added a mixture of Hunig's base (0.305 mL, 1.75 mmol) and tert-butyl methyl[2-(methylamino)ethyl]carbamate (100 mg, 0.531 mmol) in CH2Cl2 (2 mL) was added over 2 mins. Five minutes after the addition was complete, the reaction was allowed to warn to room temperature. The 3-chloro-5-[2-chloro-5-(1H-pyrazolo[3,4-b]pyridin-3-ylmethoxy)phenoxy]benzonitrile ((218 mg, 0.531 mmol) and then pyridine (0.141 mL 1.75 mmol) were added at room temperature and the resulting slurry heated at 70° C. in a sealed tube. A pale yellow solution was obtained which was heated at 70° C. for 16 hours. The reaction mixture was cooled to room temperature and the solvents evaporated in vacuo. The residue was dissolved in DMF (4 mL) and purified by reverse phase HPLC using a gradient elution 5 to 95% acetonitrile in water containing 0.1% trifluoroacetic acid. The pure fractions were lyophilized to afford the title compound as a cream solid. MH+-BOC 524. 1H NMR (400 MHz) CDCl3 8.70 (1H, dd, j−4.7 and 1.5 Hz), 8.25 (1H, dd, J=1.4, 8.1 Hz), 7.42 (1H, d, J=8.9 Hz), 7.34 (1H, t, J=1.5 Hz), 7.3291H, dd, J=8.0 and 4.7 Hz), 7.14 (1H, t, J=2 Hz), 7.01 (1H, m), 6.95 (1H, dd, J=8.9 and 2.9 Hz), 6.80 (1H, d, J=2.9 Hz), 3.80-2.60 (10H, m), 1.60-1.30 (9H, m).

reactant | triphosgene | 0.212 mmol, 63 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | Hunig's base | 1.75 mmol, 0.305 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | tert-butyl methyl[2-(methylamino)ethyl]carbamate | 0.531 mmol, 100 mg | CN(C(OC(C)(C)C)=O)CCNC | C9H20N2O2
reactant | 3-chloro-5-[2-chloro-5-(1H-pyrazolo[3,4-b]pyridin-3-ylmethoxy)phenoxy]benzonitrile | ClC=1C=C(C#N)C=C(C1)OC1=C(C=CC(=C1)OCC1=NNC2=NC=CC=C21)Cl | C20H12Cl2N4O2
reactant | pyridine | 1.75 mmol, 0.141 mL | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl 2-[[(3-{[4-chloro-3-(3-chloro-5-cyanophenoxy)phenoxy]methyl}-1H-pyrazolo[3,4-b]pyridin-1-yl)carbonyl](methyl)amino]ethyl(methyl)carbamate | ClC1=C(C=C(OCC2=NN(C3=NC=CC=C32)C(=O)N(CCN(C(OC(C)(C)C)=O)C)C)C=C1)OC1=CC(=CC(=C1)C#N)Cl | C30H30Cl2N6O5
